US09102591B2
To a cooled (0° C.) slurry of NaH (60% dispersion in oil, 2.74 g, 68.5 mmol) in THF (120 mL) was added a solution of (6-methylpyridin-3-yl)-acetonitrile (8.23 g, 62.3 mmol) in THF (60 mL). The mixture was stirred at room temperature for 3 h and then warmed to 40° C. for 1 h. The resulting reddish brown slurry was cooled to −20° C. and a solution of 1-bromo-2-methylpropane (8.53 g, 62.3 mmol) in THF (30 mL) was added dropwise and then stirred for 18 h at room temperature. The reaction was quenched with water and extracted with AcOEt. The organic extracts were combined and washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (15% EtOAc in hexane) to give 7.52 g (64% yield) of 4-methyl-2-(6-methylpyridin-3-yl)-pentanenitrile as an oil. 1H NMR (400 MHz, CDCl3) δ ppm 1.00 (dd, J=6.64, 4.30 Hz, 6 H), 1.53-1.70 (m, 1 El), 1.71-1.99 (m, 2 H), 2.57 (s, 3 H), 3.81 (dd, J=9.57, 6.45 Hz, 1 H), 7.19 (d, J=7.82 Hz, 1 H), 7.59 (dd, J=7.82, 2.34 Hz, 1 H), 8.43 (d, J=2.34 Hz, 1 H).

reactant | NaH | 68.5 mmol, 2.74 g | [H-].[Na+]
reactant | (6-methylpyridin-3-yl)-acetonitrile | 62.3 mmol, 8.23 g | CC1=CC=C(C=N1)CC#N | C8H8N2
reactant | 1-bromo-2-methylpropane | 62.3 mmol, 8.53 g | BrCC(C)C | C4H9Br
solvent | THF | 120 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 4-methyl-2-(6-methylpyridin-3-yl)-pentanenitrile | 7.52 g, 64% yield | CC(CC(C#N)C=1C=NC(=CC1)C)C | C12H16N2
